US08802850B2
(R)-tert-Butyl 1-(hydroxyamino)-1-oxopropan-2-ylcarbamate
At about 0° C., isopropyl chloroformate (86.05 g, 702.16 mmol, 1.00 equiv.) was added dropwise, over a period of 60 minutes, to a stirred mixture of (S)-2-(tert-butoxycarbonylamino)propanoic acid (118 g, 623.65 mmol, 1.00 equiv.), tetrahydrofuran (500 mL), and triethylamine (63.63 g, 628.82 mmol, 1.00 equiv.). The resulting mixture was then stirred at about 0° C. for about 2 hours, and then the solids were removed by filtration. The resulting filtrate was then added to a hydroxylamine solution (formed by first stirring a mixture of sodium hydroxide (37.6 g, 940.00 mmol, 1.50 equiv.), methanol (500 mL), and hydroxylamine hydrochloride (65 g, 935.39 mmol, 1.50 equiv) at about 0° C. for about 2 hours, and then removing the resulting solids by filtration). The resulting mixture was stirred at about 0° C. for about 2 hours, the solids were removed by filtration, and the resulting filtrate was concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether (1:1)) to give the title product as a white solid (70 g; yield=55%). 1H NMR (300 MHz, CDCl3) δ: 5.18 (b, 1H), 4.21 (m, 1H), 2.06 (s, 1H), 1.46 (s, 9H), 1.40 (d, J=7.2 Hz, 3H).

reactant | isopropyl chloroformate | 702.16 mmol, 86.05 g, 1.00 equiv. | ClC(=O)OC(C)C | C4H7ClO2
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 623.65 mmol, 118 g, 1.00 equiv. | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | triethylamine | 628.82 mmol, 63.63 g, 1.00 equiv. | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 940.00 mmol, 37.6 g, 1.50 equiv. | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 935.39 mmol, 65 g, 1.50 equiv | Cl.NO
solvent | methanol | 500 mL | CO | CH4O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | (R)-tert-Butyl 1-(hydroxyamino)-1-oxopropan-2-ylcarbamate | 70 g, yield=55% | ONC([C@@H](C)NC(OC(C)(C)C)=O)=O | C8H16N2O4
